US05264429
To an ice-cooled mixture of t-butyl 7β-amino-3-methyl-3-cephem-4-carboxylate (1.3 g, 0.0048 mol), ethanol (30 ml), water (8.5 ml), hydrobromic acid (48%, 5.83 ml), sodium nitrite (0.48 g, 0.00696 mol) was added portionwise over 15 minutes and the mixture was stirred at ice-temperature (-5° C.) for 3 hours, saturated with sodium chloride, extracted with ethyl acetate (3 times). The combined ethyl acetate extract was washed with water, brine, dried and concentrated to give 800 mg (50%) of pure t-butyl 7α-bromo-3-methyl-3-cephem-4-carboxylate.

reactant | t-butyl 7β-amino-3-methyl-3-cephem-4-carboxylate | 0.0048 mol, 1.3 g | N[C@H]1[C@@H]2N(C(=C(CS2)C)C(=O)OC(C)(C)C)C1=O | C12H18N2O3S
reactant | hydrobromic acid | 5.83 ml | Br | BrH
reactant | sodium nitrite | 0.00696 mol, 0.48 g | N(=O)[O-].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | water | 8.5 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | t-butyl 7α-bromo-3-methyl-3-cephem-4-carboxylate | 800 mg, 50% | Br[C@@H]1[C@@H]2N(C(=C(CS2)C)C(=O)OC(C)(C)C)C1=O | C12H16BrNO3S
